US05830892
Tin (II) chloride (60 g) was added to a solution of methyl 3-nitro-5-(trifluoromethyl)benzoate (25 g, 100 mmol) in ethanol (600 ml) and the mixture was heated to 60° C. for 2 hours. The mixture was cooled and concentrated under reduced pressure to approximately one third volume. The mixture was added slowly to saturated aqueous sodium hydrogen carbonate (1000 ml) and the resulting mixture was filtered through celite. The filter cake was washed with ethyl acetate (500 ml). The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure to give methyl 3-amino-5-(trifluoromethyl)benzoate as an orange solid (12.4 g), 1H NMR (360 MHz,CDCl3) δ 3.95 (3H, s), 7.08 (1H, br s), 7.51 (1H, s), and 7.66 (1H, s).

reactant | Tin (II) chloride | 60 g | [Sn](Cl)Cl
reactant | methyl 3-nitro-5-(trifluoromethyl)benzoate | 100 mmol, 25 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H6F3NO4
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | methyl 3-amino-5-(trifluoromethyl)benzoate | 12.4 g | NC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H8F3NO2
